US09351965B2
Preparation of N-(3-((1H-indazol-1-yl)methyl)cyclohexyl)-3-(2-methylpyridin-4-yl)-1-trityl-1H-indazole-5-carboxamide
2-(7-Aza-1H-benzotriazole-1-yl)-1,1,3,3-tetramethyluronium hexafluorophosphate (HATU) (0.11 mmol) was added to a suspension of 3-(2-methylpyridin-4-yl)-1-trityl-1H-indazole-5-carboxylic acid (0.1 mmol) in DMF (0.5 mL) and was stirred at room temperature for 15 minutes. A solution of 3-((1H-indazol-1-yl)methyl)cyclohexanamine (0.1 mmol) in DMF (0.5 mL) was added to the reaction and followed by diisopropyl ethyl amine (DIEA) (0.1 mL). The mixture was stirred at room temperature for an additional 30 minutes. The reaction was quenched with water (5 mL) and extracted with ethyl acetate (3×10 mL). The extracts were combined, dried using anhydrous sodium sulfate, filtered, and concentrated in vacuo. The crude product was progressed to the next step without purification.

reactant | 2-(7-Aza-1H-benzotriazole-1-yl)-1,1,3,3-tetramethyluronium hexafluorophosphate | 0.11 mmol | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
reactant | 3-(2-methylpyridin-4-yl)-1-trityl-1H-indazole-5-carboxylic acid | 0.1 mmol | CC1=NC=CC(=C1)C1=NN(C2=CC=C(C=C12)C(=O)O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C33H25N3O2
reactant | 3-((1H-indazol-1-yl)methyl)cyclohexanamine | 0.1 mmol | N1(N=CC2=CC=CC=C12)CC1CC(CCC1)N | C14H19N3
reactant | diisopropyl ethyl amine | 0.1 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | N-(3-((1H-indazol-1-yl)methyl)cyclohexyl)-3-(2-methylpyridin-4-yl)-1-trityl-1H-indazole-5-carboxamide | N1(N=CC2=CC=CC=C12)CC1CC(CCC1)NC(=O)C=1C=C2C(=NN(C2=CC1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC(=NC=C1)C | C47H42N6O
